US09034900B2
Step 1: 2-ethyl-7-iodo-5-methylsulfonyl-1-benzofuran
To a solution of 2,6-diiodo-4-methylsulfonylphenol (1.00 g, 2.36 mmol) in pyridine (10 mL) at 25° C. was added but-1-yne (128 mg, 2.36 mmol) and Cu2O (135 mg, 0.944 mmol). The mixture was stirred at 130° C. for 3 h under a nitrogen atmosphere. The residue was cooled to 25° C., diluted with 1N HCl (200 ml) and extracted with EtOAc (30 mL×2). The combined organic layers were washed by brine (100 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography (PE:EA=10:1 to 5:1) to afford the title compound (400 mg, 48%) as a solid. 1H NMR (CDCl3, 400 MHz) δ 8.14 (d, J=1.6 Hz, 1H), 8.06 (d, J=1.6 Hz, 1H), 6.62 (s, 1H), 3.09 (s, 3H), 2.90 (q, J=7.6 Hz, 2H), 1.38 (t, J=7.6 Hz, 3H). LCMS: 350.9 (M+H+)

reactant | 2,6-diiodo-4-methylsulfonylphenol | 2.36 mmol, 1.00 g | IC1=C(C(=CC(=C1)S(=O)(=O)C)I)O | C7H6I2O3S
reactant | but-1-yne | 2.36 mmol, 128 mg | C#CCC | C4H6
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N, 200 ml | Cl | ClH
product | 2-ethyl-7-iodo-5-methylsulfonyl-1-benzofuran | 400 mg, 48% | C(C)C=1OC2=C(C1)C=C(C=C2I)S(=O)(=O)C | C11H11IO3S
